US08877782B2
(1,1-Dioxo-1λ6-thiomorpholin-4-yl)-{6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridin-3-yl}-methanone
As described for example 95, 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (103 mg, 0.3 mmol) was converted, using thiomorpholine-S,S-dioxide instead of thiomorpholine, to the title compound (133 mg, 100%) which was obtained as a white foam. MS: m/e=446.0 [M+H]+.

reactant | 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.3 mmol, 103 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC(=CC=C1)F)=O | C18H15FN2O4
reactant | thiomorpholine-S,S-dioxide | N1CCS(CC1)(=O)=O | C4H9NO2S
product | (1,1-Dioxo-1λ6-thiomorpholin-4-yl)-{6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridin-3-yl}-methanone | 133 mg, 100% | O=S1(CCN(CC1)C(=O)C=1C=NC(=CC1)OCC=1C(=NOC1C)C1=CC(=CC=C1)F)=O | C21H20FN3O5S
